US08236798B2
74.1 Ethyl 3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoate
Et3N (6 ml, 43.00 mmol) was added to suspension of 4-ethoxy-3-hydroxy-4-oxo-1-phenylbutan-2-aminium chloride (4.7 g, 18.10 mmol) in THF (50 mL) at 10° C. A solution of di-tert-butyldicarbonate (4.2 g, 19.24 mmol) in THF (30 mL) was added within 10 min at 10° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The solvent was reduced in vacuo and the residue was extracted with DCM. The combined organic layers were washed with saturated aqueous NaCl solution and dried over MgSO4. Purification by flash column chromatograohy (DCM/MeOH) provided the title compound (4.5 g, 77%).

reactant | Et3N | 43.00 mmol, 6 ml | CCN(CC)CC | C6H15N
reactant | 4-ethoxy-3-hydroxy-4-oxo-1-phenylbutan-2-aminium chloride | 18.10 mmol, 4.7 g | [Cl-].C(C)OC(C(C(CC1=CC=CC=C1)[NH3+])O)=O
reactant | di-tert-butyldicarbonate | 19.24 mmol, 4.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoate | 4.5 g, 77% | C(C)(C)(C)OC(=O)NC(C(C(=O)OCC)O)CC1=CC=CC=C1 | C17H25NO5
